US04605434
A solution of 316.3 g of chloromethyl-dimethylphosphine oxide, 547 ml of benzylamine and 500 ml of ethanol is refluxed for 18 hours. After cooling to 20° to 25° C., the turbid suspension is filtered; the clear filtrate is then concentrated by evaporation, and to the residue are added 500 ml of 10% sodium chloride solution. The aqueous solution is extracted 4 times with 500 ml of methylene chloride each time; and the combined organic phases are subsequently dried over sodium sulfate and concentrated by evaporation. Vacuum distillation of the oily crude product yields 311.0 g (63% of theory) of N-benzyl-P,P-dimethyl-aminomethylphosphine oxide in the form of yellowish oil, b.p. 150° C./0.2 mb.

reactant | chloromethyl-dimethylphosphine oxide | 316.3 g | ClCP(C)(C)=O | C3H8ClOP
reactant | benzylamine | 547 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-benzyl-P,P-dimethyl-aminomethylphosphine oxide | 311.0 g, 63% | C(C1=CC=CC=C1)NCP(C)(C)=O | C10H16NOP
